US05981533
3-(4-Acetylamino-phenylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine
A suspension of 6.32 g (20.3 mmol) of 3-(4-acetylamino-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole and 4 g (24.4 mmol) of 3-chloro-aniline hydrochloride in 50 ml of methanol is heated under reflux for 96 hours and then cooled to room temperature. The reaction mixture is filtered and the filter residue is digested for 1/2 hour in 50 ml of 1N sodium hydroxide solution. Filtering and washing with water yield the title compound; m.p. 290-291° C. (decomp.).

reactant | 3-(4-acetylamino-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | 20.3 mmol, 6.32 g | C(C)(=O)NC1=CC=C(C=C1)NC1=NNC(=C1C#N)N=CN(C)C | C15H17N7O
reactant | 3-chloro-aniline hydrochloride | 24.4 mmol, 4 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-Acetylamino-phenylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | C(C)(=O)NC1=CC=C(C=C1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C19H16ClN7O
